US20010056100A1
A mixture of indole-5-boronic acid (2.0 g, 12.4 mmole); iodobenzene (2.48 g, 12.2 mmole), tetrakis(triphenylphosphine) palladium (0) (288 mg, 0.25 mmole), sodium carbonate (4.34 g, 40.9 mmole) in water (20 ml), and dioxane (20 ml) was stirred under an argon atmosphere and heated to 100° C. for 5 hrs, cooled to room temperature, acidified with 1M HCl, extracted, washed, dried, and evaporated. The residue was purified by chromatography to give about 1.6 g of 5-phenyl-1H-indole, mp. 72-74° C.

reactant | indole-5-boronic acid | 12.4 mmole, 2.0 g | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | iodobenzene | 12.2 mmole, 2.48 g | IC1=CC=CC=C1 | C6H5I
reactant | sodium carbonate | 40.9 mmole, 4.34 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | water | 20 ml | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.25 mmole, 288 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 5-phenyl-1H-indole | about 1.6 g | C1(=CC=CC=C1)C=1C=C2C=CNC2=CC1 | C14H11N
